Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Novocain
 
Attending: ___.
 
Chief Complaint:
Memory loss
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ right handed woman with PMH significant 
for
HLD, remove migraine headaches and prior TGA (___) who presents
with acute onset of amnesia. The patient was at her friends 
house
playing ___ when suddenly (at 3:30pm) the patient became
confused. She did not recognize her friends and did not know
where she was or what she was doing there. The friends called 
the
patient's daughter who arrived around 30min later. At that point
she was recognizing her friends again but ___ know what she
was doing there. Her daughter drove the patient to ___ and a
code stroke was called. 

Upon my evaluation the patient was repeating the same set of
questions despite being told the answers. Her reactions were the
same each time. Her retrograde amnesia seemed to go back about ___
year which is when she moved apartments. She could not recall
that she had moved. She could not recall the trip she took to 
the
___ after ___. She knew it was ___ but 
could
not recall if Christmas had passed. She kept saying "I was in a
dream". 

When I returned about 30 min later she could recall that she had
moved and what her new address was. 
 
Past Medical History:
Breast CA sp lumpectomy 
hearing loss
HLD
insomnia 
remote history of migraine
TGA ___ (seen by Dr. ___
 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION EXAM:
Mental Status: She is awake and alert. She looks around and
guesses we are in an emergency department and that it must be
___. She knows its ___ but now that Christmas has
passed or the year. When asked her age she starts by saying her
birth year and then trying to calculate her age. After being 
told
her age it only takes a few minutes before she will forget and
repeat the same response. Will learn a simple motor task and 
also
forget this moments later. She is attentive: able to name ___
backward without difficulty, counts down from 20 without
difficulty. Language is fluent and appropriate with intact
comprehension, reading, repetition and naming of both high and
low frequency objects. Normal prosody. There were no paraphasic
errors. Speech was not dysarthric. Able to follow both midline
and appendicular commands. No neglect, left/right confusion or
finger agnosia. 

Cranial Nerves:
I: not tested
II: visual fields full to confrontation, unremarkable fundi.
III-IV-VI: pupils equally round, reactive to light. Normal
conjugated, extra-ocular eye movements in all directions of 
gaze.
No nystagmus or diplopia.
V: Symmetric perception of LT in V1-3 
VII: Face is symmetric at rest and with activation; symmetric
speed and excursion with smile.
VIII: Hearing intact to finger rub bl
IX-X: Palate elevates symmetrically
XI: Shoulder shrug ___ bl 
XII: No tongue deviation or fasciculations

Motor: Normal muscle bulk and tone throughout. No pronator drift
or  rebound
Strength:
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

Reflexes:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Toes are down going bilaterally.

Sensory: normal and symmetric perception of pinprick, light
touch, vibration and temperature. No extinction to DSS.

Coordination: Finger to nose without dysmetria bilaterally. No
intention tremor. RAM were symmetric with regard to cadence and
speed, no dysdiadochokinesia noted.

Gait: narrow based, normal stride, stable stance

DISCHARGE EXAM:
Able to recall events of the day prior aside from 3 hour period 
___, did not recall being in the emergency room, remembered 
that she had been playing ___ prior to episode. Distant 
memory intact, good memory of events this morning. Good 
registration and recall of 3 words at 5 minutes. Attentive.

Remainder of exam unchanged from above.
 
Pertinent Results:
___ 07:45PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 04:28PM   CREAT-0.8
___ 04:28PM   estGFR-Using this
___ 04:24PM   GLUCOSE-98 NA+-140 K+-4.3 CL--102 TCO2-24
___ 04:14PM   UREA N-15
___ 04:14PM   WBC-5.4 RBC-4.67 HGB-13.7 HCT-41.7 MCV-89 
MCH-29.3 MCHC-32.9 RDW-12.8 RDWSD-41.5
___ 04:14PM   PLT COUNT-124*
___ 04:14PM   ___ PTT-29.7 ___

MR BRAIN: 
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift or infarction.   The ventricles and sulci are 
normal in caliber and 
configuration. 
  
There is minimal mucosal thickening in the right maxillary and 
bilateral 
ethmoid sinuses.  The mastoid air cells are clear. 
  
The orbits are unremarkable. 
  
MRA brain: The intracranial vertebral and internal carotid 
arteries and their major branches  are patentwithout evidence of 
stenosis, occlusion, or aneurysm formation. 
  
IMPRESSION: 
1. No acute infarction or intracranial abnormality. 
2. No evidence of metastatic disease. 
3. Patent circle of ___. 
4.  Paranasal sinus disease as described. 

Extended routine EEG: normal

 
Brief Hospital Course:
Ms. ___ was admitted to the general neurology service for workup 
of TGA.

MRI brain showed no abnormalities, specifically no stroke. MRA 
brain was normal. Extended routine EEG was normal and showed no 
epileptiform features. She was monitored on telemetry with no 
events. Labs were sent for stroke risk factor workup - HbA1c was 
6.2%, LDL 146, TSH 2.3. She was started on ASA 81mg daily and 
atorvastatin 20mg daily.

She was back to her baseline and was sent home with follow up 
with outpatient neurology.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lorazepam 1 mg PO QHS:PRN insomnia 
2. melatonin 3 mg oral QHS 
3. Vitamin D Dose is Unknown  PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Fish Oil (Omega 3) Dose is Unknown  PO BID 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
DAILY Disp #*30 Tablet Refills:*0
2. Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0
3. Fish Oil (Omega 3) 1000 mg PO BID 
4. melatonin 3 mg oral QHS 
5. Multivitamins 1 TAB PO DAILY 
6. Vitamin D 400 UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
TGA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ with 
an episode of memory loss, called "transient global amnesia" or 
"TGA." We performed an MRI of your brain, which was normal and 
showed no stroke. We did an EEG which looks normal on prelimary 
read, the final read is still pending. We will call you if this 
is abnormal. We also sent several lab tests which are pending at 
this time, if they are abnormal then we will give you a call.

We started you on aspirin and a cholesterol medication to 
decrease your risk for stroke in the future.

You should stop the lorazepam (Ativan) which you take sometimes 
for sleep, as this can predispose you to episodes of memory loss 
like the one that brought you in. Melatonin is safe and you can 
continue to use this as needed.

You should follow up with your primary care doctor, and with 
neurology - the phone number for our office is listed below.

It was a pleasure taking care of you during this hospital stay.
 
Followup Instructions:
___